US07091228B2
To a solution of trans-2-(4-bromobenzoyl)cyclobutanecarboxylic acid (8.2 g, 28.94 mmol) in MeOH (250 mL) was added 2,2-dimethoxypropane (3.65 g, 35.02 mmol) and HCl (4.0 M in dioxane) (2.0 mL). The resulting solution was stirred at rt for 3 days, and then evaporated to dryness. The resulting residue was purified with flash chromatography (Biotage Flash 40M) using 4 to 11% ethyl acetate in hexanes to afford methyl trans-2-(4-bromobenzoyl)cyclobutanecarboxylate (6.21 g, 78%). 1H NMR (400 MHz, CD2Cl2) δ 2.14–2.39 (m, 4H), 3.62 (m, 1H), 3.68 (s, 3H), 4.24 (m, 1H), 7.63 (m, 2H), 7.80 (m, 2H).

reactant | trans-2-(4-bromobenzoyl)cyclobutanecarboxylic acid | 28.94 mmol, 8.2 g | BrC1=CC=C(C(=O)[C@H]2[C@@H](CC2)C(=O)O)C=C1 | C12H11BrO3
reactant | 2,2-dimethoxypropane | 35.02 mmol, 3.65 g | COC(C)(C)OC | C5H12O2
reactant | HCl | 4.0 M, 2.0 mL | Cl | ClH
solvent | MeOH | 250 mL | CO | CH4O
product | methyl trans-2-(4-bromobenzoyl)cyclobutanecarboxylate | 6.21 g, 78% | BrC1=CC=C(C(=O)[C@H]2[C@@H](CC2)C(=O)OC)C=C1 | C13H13BrO3
